US04174317
(A) N,N-Dimethyl-N'-(2-naphthalenylmethylene)-1,3-propanediamine
Interaction of 15.6 g of 2-naphthaldehyde and 10.2 g of 3-dimethylaminopropylamine in 80 ml. of benzene following the procedure described in Example 1 yields 22.4 g of oily product; boiling point 146°-149° C. at 0.1-0.2 mm. of Hg. The material solidifies when stored in the cold, melting point 29°-31° C.

reactant | 2-naphthaldehyde | 15.6 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-dimethylaminopropylamine | 10.2 g | CN(CCCN)C | C5H14N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-Dimethyl-N'-(2-naphthalenylmethylene)-1,3-propanediamine | 22.4 g | CN(CCCN=CC1=CC2=CC=CC=C2C=C1)C | C16H20N2
